US07868026B2
N-(3-methylbutyl)-2-[(pyridin-3-ylamino)sulfonyl]benzamide
The title compound was prepared according to procedures described above, using methyl 2-[(pyridin-3-ylamino)sulfonyl]benzoate and 3-methylbutylamine. The title compound was further purified by dissolving 2.0 g in ethyl acetate (20 mL) and heating to reflux. When compound had fully dissolved the resultant solution was left to cool very slowly to room temperature. The resulting crystals were left to stand at RT for 30 min, after which time they were filtered using a funnel, washed with cold ethyl acetate (20 mL), and dried under high vacuum for 16 h to afford the title compound as a white crystalline solid (1.67 g, 84%). 1H NMR (400 MHz, CDCl3) δ 8.64 (s, 1H) 8.26-8.43 (m, 2H) 7.60-7.68 (m, 2H) 7.45-7.59 (m, 2H) 7.39 (t, 1H) 7.12-7.21 (m, 1H) 6.08-6.17 (m, 1H) 3.52 (q, 2H) 1.67-1.79 (m, 1H) 1.57 (q, 2H) 0.98 (d, 6H).

reactant | methyl 2-[(pyridin-3-ylamino)sulfonyl]benzoate | N1=CC(=CC=C1)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C13H12N2O4S
reactant | 3-methylbutylamine | CC(CCN)C | C5H13N
product | N-(3-methylbutyl)-2-[(pyridin-3-ylamino)sulfonyl]benzamide | 1.67 g, 84% | CC(CCNC(C1=C(C=CC=C1)S(=O)(=O)NC=1C=NC=CC1)=O)C | C17H21N3O3S
